US05051422
4-(3-Methoxyphenyl)-1-(phenylmethyl)-2-piperazinemethanamine
In a manner similar to Preparation 2, react 4-(3-methoxyphenyl)-1-(phenylmethyl)-2-piperazinecarboxamide (0.9 g, 27 mmol) with lithium aluminum hydride (2.1 g, 55 mmol) to give the title compound.

reactant | 4-(3-methoxyphenyl)-1-(phenylmethyl)-2-piperazinecarboxamide | 27 mmol, 0.9 g | COC=1C=C(C=CC1)N1CC(N(CC1)CC1=CC=CC=C1)C(=O)N | C19H23N3O2
reactant | lithium aluminum hydride | 55 mmol, 2.1 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 4-(3-Methoxyphenyl)-1-(phenylmethyl)-2-piperazinemethanamine | COC=1C=C(C=CC1)N1CC(N(CC1)CC1=CC=CC=C1)CN | C19H25N3O
